US04604455
Treatment of tertiary alcohols with chlorosulfonyl isocyanate gives monoalkyl sulfamyl chlorides (J. B. Hendrickson and J. Joffe, J. Am Chem. Soc., 95, 4084, 1973). Timberlake used this method to synthesize N-tert-butyl-N'-tert-octylsulfamide in 44% yield (J. W. Timberlake, M. L. Hodges and A. W. Garner, Tetrahedron Lett., 3843, 1973 and J. W. Timberlake, J. Alender, A. W. Garner, M. L. Hodges, C. Ozmeral and S. Szilagyi, J. Org. Chem., 46, 20282, 1981). The sulfamide was oxidized with tert-butyl hypochlorite and sodim hydride to tert-butyl tert-octyldiazene. N-tert-Butyl-N'-(adamant-l-yl) sulfamide was prepared in 45% yield by the same route. There is no evidence it was oxidized to the azo. Apparently, tert-butyl tert-2,2,4,6,6-pentamethyl-4-heptyldiazene was also prepared by this route (J. W. Timberlake and A. W. Garner, J. Org. Chem., 41, 1666, 1976).

reactant | N-tert-butyl-N'-tert-octylsulfamide | C(C)(C)(C)NS(=O)(=O)NC(C)(C)CC(C)(C)C | C12H28N2O2S
reactant | sulfamide | S(=O)(=O)(N)N | H4N2O2S
reactant | tert-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
reactant | hydride | [H-]
reactant | tert-butyl tert-octyldiazene | C(C)(C)(C)N=NC(C)(C)CC(C)(C)C | C12H26N2
product | N-tert-Butyl-N'-(adamant-l-yl) sulfamide | 45% yield | C(C)(C)(C)NS(=O)(=O)NC12CC3CC(CC(C1)C3)C2 | C14H26N2O2S
